data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_180274_1,[C:1]([C:3]([H:15])([H:16])[H:17])([N:4](/[C:5]([C:2]([H:12])([H:13])[H:14])=[N:7]/[O:6][H:8])[H:9])([H:10])[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:7](/[C:5]([C:2]([H:12])([H:13])[H:14])=[N:4]/[H:9])[O:6][H:8])([H:10])[H:11],71.02358749999198
MR_336688_2,[C:1](/[C:3]([N:4]([H:9])[H:10])=[C:5](\[N:2](/[C:6](=[N:7]\[H:11])[H:13])[H:8])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C@@:3]1([N:4]([H:9])[H:10])[N:2]([H:8])[C@:5]1(/[C:6](=[N:7]\[H:11])[H:13])[H:12])([H:14])([H:15])[H:16],69.38330249999566
MR_362952_1,[C:1](/[C:2]([N:3]([H:9])[H:10])=[C:6](/[N:4]([H:11])[H:12])[H:16])([O:7][C:5](=[O:8])[H:13])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C@:2]([N:3]([H:9])[H:10])([C@@:6]([N:4]([H:11])[H:12])([C:5](=[O:8])[H:13])[H:16])[O:7]1,49.53736000002223
MR_68518_0,[C:1]([C:2]([H:12])([H:13])[H:14])([N:4]([C:3]([H:15])([H:16])[H:17])[H:10])(/[C:5](=[N:7]\[H:9])[H:11])[O:6][H:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])([N:4]([C:3]([H:15])([H:16])[H:17])[H:9])(/[C:5](=[N:7]\[H:10])[H:11])[O:6][H:8],51.629444999983605
MR_273624_1,[C:1]([C:3]1([C:2](=[O:5])[O:6][H:8])[C:4]([H:9])=[N:7]1)([H:10])([H:11])[H:12]>>[C:1]([c:3]1[c:2]([O:6][H:8])[o:5][c:4]([H:9])[n:7]1)([H:10])([H:11])[H:12],52.70937250000358
MR_434720_1,[C:1]([C:3]1([C:2]([O:7][H:10])=[O:9])[C:4](=[C:6]([H:16])[H:17])[N:8]1[H:11])([N:5]([H:12])[H:13])([H:14])[H:15]>>[C:1]([C:4](/[C:3]([C:2]([O:7][H:10])=[O:9])=[N:8]/[H:11])=[C:6]([H:16])[H:17])([N:5]([H:12])[H:13])([H:14])[H:15],63.27898249999848
MR_144268_0,[C:1](/[C:3](=[C:2](\[C:5](=[O:7])[H:11])[O:6][H:8])[N:4]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C@:3]1([N:4]([H:9])[H:10])[C:2]([O:6][H:8])=[C:5]([H:11])[O:7]1)([H:12])([H:13])[H:14],47.87072000002112
MR_215868_1,[C:1]([N:3]([O:5][C:2]([H:11])([H:12])[H:13])[H:7])([C:4](=[O:6])[H:10])([H:8])[H:9]>>[C:1]([N:3]([C:4](=[O:6])[H:10])[H:7])([O:5][C:2]([H:11])([H:12])[H:13])([H:8])[H:9],52.491002499984205
MR_317610_0,[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:7]([C:4]([H:16])([H:17])[H:18])=[C:6]([C:3]([H:13])([H:14])[H:15])[N:5]1[H:8]>>[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:7]1([C:4]([H:16])([H:17])[H:18])/[C:6]([C:3]([H:13])([H:14])[H:15])=[N:5]/[H:8],67.38848000000274
MR_512164_0,[C:1]([C:2]([C:3]([O:7][H:11])=[O:8])([N:4]([H:14])[H:15])[H:13])([O:5][H:10])([O:6][H:9])[H:12]>>[C:1]([C:2]([C:3]([O:5][H:10])([O:7][H:11])[O:8][H:9])([N:4]([H:14])[H:15])[H:13])(=[O:6])[H:12],45.270987499986006
MR_189580_0,[C:1]([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])(/[N:6]=[C:5](\[C:3]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9]>>[C:1](=[N:6][C@:5]([C:3]([H:14])([H:15])[H:16])([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])[H:10])([H:8])[H:9],68.89134250002499
MR_29217_0,[C:1](\[C:2]([C:5]([O:6][H:8])([H:7])[H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])=[N:4]/[H:9]>>[C:1]([C:2]([C:5](=[O:6])[H:7])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([N:4]([H:8])[H:9])[H:10],46.40174250002033
MR_367533_0,[C@@:1]1([C:7]([C:6]([H:20])([H:21])[H:22])=[O:9])([N:8]([H:10])[H:11])[C:2]([C:4]([H:14])([H:16])[H:17])([C:5]([H:15])([H:18])[H:19])[C:3]1([H:12])[H:13]>>[C:1]1([N:8]([H:10])[H:11])=[C:7]([C:6]([H:20])([H:21])[H:22])[O:9][C:2]([C:4]([H:14])([H:16])[H:17])([C:5]([H:15])([H:18])[H:19])[C:3]1([H:12])[H:13],37.78993250000482
MR_41943_0,[N:1](/[C:2]([N:4]([H:10])[H:11])=[N:6]\[H:12])([N:3]([H:8])[H:9])/[C:5](=[N:7]/[H:13])[H:14]>>[N:1](\[N:3]([H:8])[H:9])=[C:5](/[N:7](/[C:2]([N:4]([H:10])[H:11])=[N:6]\[H:12])[H:13])[H:14],48.02822249998016
MR_490872_0,[C:1](/[C:3]([N:4]([H:9])[H:10])=[N:6]/[C:2]([O:5][H:8])=[N:7]/[H:11])([H:12])([H:13])[H:14]>>[C:1]([C@@:3]1([N:4]([H:9])[H:10])[N:6]=[C:2]([O:5][H:8])[N:7]1[H:11])([H:12])([H:13])[H:14],31.33044750001261
MR_571198_1,[C@:1]([N:5]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])([N:6]([H:10])[H:11])(/[C:7](=[C:8](\[C:4]([H:20])([H:21])[H:22])[H:13])[H:12])[H:9]>>[C:1](\[N:6]([H:10])[H:11])(=[C:7](/[C@@:8]([C:4]([H:20])([H:21])[H:22])([N:5]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])[H:13])[H:12])[H:9],56.02633750001132
MR_198257_2,[C:1]1([N:6]([H:10])[H:11])([H:8])[C:2]([C:4]([H:14])([H:15])[H:16])([H:9])[N:5]([H:7])[C:3]1([H:12])[H:13]>>[C:1]([C:2](=[C:4]([H:14])[H:16])[H:9])([C:3]([N:5]([H:7])[H:15])([H:12])[H:13])([N:6]([H:10])[H:11])[H:8],65.3967950000019
MR_460382_0,[C:1]([O:6][N:3](/[C:4]([N:5]([H:10])[H:11])=[N:8]/[C:2]([H:15])([H:16])[H:17])[O:7][H:9])([H:12])([H:13])[H:14]>>[C:1]([O:6][N:8]([C:2]([H:15])([H:16])[H:17])/[C:4](=[N:3]/[O:7][H:9])[N:5]([H:10])[H:11])([H:12])([H:13])[H:14],49.42315500002522
MR_230772_1,[N:1]([C:2]1([H:12])[C:5](=[C:6]([H:13])[H:14])[O:7]1)([N:3]([H:10])[H:11])[N:4]([H:8])[H:9]>>[N:1]([C:2]([C:5](=[C:6]([H:13])[H:14])[H:12])=[O:7])([N:3]([H:10])[H:11])[N:4]([H:8])[H:9],67.6959549999755
MR_189631_1,[C:1]([N:2]([C:3]1([H:7])[O:4][O:5]1)[H:6])([H:8])([H:9])[H:10]>>[C:1]([N:2]([O:5][C:3](=[O:4])[H:7])[H:6])([H:8])([H:9])[H:10],31.22063499996884
